US09382188B2
F) ((2′-fluoro-5′-methoxy-2-neopentyl-[1,1′-biphenyl]-4-yl)oxy)triisopropylsilane
Under an argon atmosphere, a solution of 1-bromo-2,2-dimethylpropane (23.2 mL) in diethyl ether (250 mL) was added dropwise to magnesium (4.92 g) at a slow refluxing rate, and the reaction mixture was heated under reflux further for 30 min. Under an argon atmosphere, to a solution of 2′-fluoro-5′-methoxy-4-((triisopropylsilyl)oxy)-[1,1′-biphenyl]-2-yl trifluoromethanesulfonate (19.2 g) and a PEPPSI™-SIPr catalyst (trade name) (1.26 g) in THF (200 mL) was added the solution prepared above, and the mixture was stirred at room temperature for 1 hr. To the reaction mixture was added saturated aqueous ammonium chloride solution, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure to give the title compound as a crude oil. This compound was used for the next step without further purification.

reactant | 1-bromo-2,2-dimethylpropane | 23.2 mL | BrCC(C)(C)C | C5H11Br
reactant | magnesium | 4.92 g | [Mg] | Mg
reactant | 2′-fluoro-5′-methoxy-4-((triisopropylsilyl)oxy)-[1,1′-biphenyl]-2-yl trifluoromethanesulfonate | 19.2 g | FC(S(=O)(=O)OC1=C(C=CC(=C1)O[Si](C(C)C)(C(C)C)C(C)C)C1=C(C=CC(=C1)OC)F)(F)F | C23H30F4O5SSi
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | diethyl ether | 250 mL | C(C)OCC | C4H10O
catalyst | SIPr | 1.26 g | CC(C)C1=C(C(=CC=C1)C(C)C)N2CC[N+](=[C-]2)C3=C(C=CC=C3C(C)C)C(C)C | C27H38N2
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | ((2′-fluoro-5′-methoxy-2-neopentyl-[1,1′-biphenyl]-4-yl)oxy)triisopropylsilane | FC1=C(C=C(C=C1)OC)C1=C(C=C(C=C1)O[Si](C(C)C)(C(C)C)C(C)C)CC(C)(C)C | C27H41FO2Si
